US07598257B2
3-Acetylbenzonitrile (0.435 g, 0.00300 mol) and 1,1-dimethoxy-N,N-dimethylmethanamine (0.400 mL, 0.00301 mol) were combined and heated in sealed tube to 120° C. in the microwave for 15 min. The reaction was then allowed to cool to rt giving the 3-[(2E)-3-(dimethylamino)prop-2-enoyl]-benzonitrile as a red-orange crystalline material, LC/MS (M+H)+: 201.

reactant | 3-Acetylbenzonitrile | 0.00300 mol, 0.435 g | C(C)(=O)C=1C=C(C#N)C=CC1 | C9H7NO
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 0.00301 mol, 0.400 mL | COC(N(C)C)OC | C5H13NO2
product | 3-[(2E)-3-(dimethylamino)prop-2-enoyl]-benzonitrile | CN(/C=C/C(=O)C=1C=C(C#N)C=CC1)C | C12H12N2O
